US07582673B2
To a solution of crude 1-methoxy-4-(propane-2-sulfonyl)benzene (8 mmol) in dry dichloromethane (20 mL), chlorosulfonic acid (1 mL) was added dropwise at 0° C. The reaction mixture was warmed to room temperature followed by the addition of PCl5 (0.5 g). The resulting reaction mixture was refluxed for 1 h. After cooling to room temperature, the reaction mixture was poured into ice water (50 mL) with vigorous stirring. The aqueous layer was then extracted with EtOAc (2×75 mL). The combined organic extracts was washed with saturated sodium chloride aqueous solution (2×50 mL), dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified by flash column chromatography eluting with hexanes/EtOAc (3:1) to give 1.25 g of 2-methoxy-5-(propane-2-sulfonyl)benzenesulfonyl chloride. 1H NMR (CDCl3, 400 MHz): δ 1.31 (d, 1H), 3.23 (m, 1H), 4.18 (s, 3H), 7.30 (d, 1H), 8.18 (dd, 1H). 8.46 (d, H) ppm.

reactant | 1-methoxy-4-(propane-2-sulfonyl)benzene | 8 mmol | COC1=CC=C(C=C1)S(=O)(=O)C(C)C | C10H14O3S
reactant | PCl5 | 0.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | chlorosulfonic acid | 1 mL | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-methoxy-5-(propane-2-sulfonyl)benzenesulfonyl chloride | 1.25 g | COC1=C(C=C(C=C1)S(=O)(=O)C(C)C)S(=O)(=O)Cl | C10H13ClO5S2
